.subckt 3PDT 1 2 3 4 5 6 7 8 9 POS=0
  * .param doesnt work in if..else
  .if (POS >= 1)
    r1 1 2 1G
    r2 2 3 0.01
    r3 4 5 1G
    r4 5 6 0.01
    r5 7 8 1G
    r6 8 9 0.01
  .else
    r1 1 2 0.01
    r2 2 3 1G
    r3 4 5 0.01
    r4 5 6 1G
    r5 7 8 0.01
    r6 8 9 1G
  .endif
.ends